US09315458B2
D) methyl 3-fluoro-2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
trans-Dichlorobis(triphenylphosphine)palladium(II) (2.0 g) was added to a mixture of methyl 5-bromo-3-fluoro-2-hydroxy-4-methylbenzoate (15.0 g), bis(pinacolato)diboron (21.7 g), potassium acetate (16.8 g) and toluene (290 mL) under argon atmosphere, and the mixture was stirred at 110° C. for 15 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was washed with diisopropyl ether to give the title compound (12.3 g). The filtrate was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.99 g).

reactant | methyl 5-bromo-3-fluoro-2-hydroxy-4-methylbenzoate | 15.0 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)F)C | C9H8BrFO3
reactant | bis(pinacolato)diboron | 21.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.8 g | C(C)(=O)[O-].[K+]
reactant | toluene | 290 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-Dichlorobis(triphenylphosphine)palladium(II) | 2.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | methyl 3-fluoro-2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 12.3 g | FC=1C(=C(C(=O)OC)C=C(C1C)B1OC(C(O1)(C)C)(C)C)O | C15H20BFO5
